US07250442B2
1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-methyl-1,3-dihydro-indol-2-one
Dissolve 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one (150 mg, 0.31 mmol) in anhydrous DMF (3 mL) under nitrogen and cool in an ice bath. Add a 0.5M solution of potassium bis(trimethylsilyl)amide (0.622 mL, 0.31 mmol) and stir 10 min. Add iodomethane (0.020 mL, 0.31 mmol) and after 30 min remove the ice bath and allow the reaction to warm to room temperature. After 2.5 h treat the reaction with a 1.0M solution of tetrabutylammonium fluoride (0.35 mL, 0.35 mmol) and stir 2 h. Pour the reaction into 1N HCl (20 mL) and extract with ethyl acetate (3×20 mL). Wash the combined organic portions with brine, dry (MgSO4), filter and concentrate in vacuo to obtain a crude orange oil. Purify by flash chromatography (gradient of 5% EtOAc/hexanes to 33% EtOAc/hexanes) to give 70 mg (58%) of the title compound as a pink solid. MS (ES): m/z=392 (M+1), 390 (M−1); 1H NMR(DMSO-d6): δ8.23 (s, 1H), 7.54 (dd, J=1.9, 1.5 Hz, J=7.5, 7.3 Hz, 1H), 7.38-7.20 (m, 4H), 7.09-7.02 (m, 2H), 6.89 (d, J=7.6 Hz, 1H), 6.80 (s, 2H), 5.02 (s, 2H), 2.11 (s, 6H), 1.70 (s, 3H).

reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.31 mmol, 150 mg | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)=O)C)(C)C | C29H34ClNO2Si
reactant | potassium bis(trimethylsilyl)amide | 0.31 mmol, 0.622 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethane | 0.31 mmol, 0.020 mL | IC | CH3I
reactant | tetrabutylammonium fluoride | 0.35 mmol, 0.35 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-methyl-1,3-dihydro-indol-2-one | 70 mg, 58% | ClC1=C(CN2C(C(C3=CC=CC=C23)(C)C2=CC(=C(C(=C2)C)O)C)=O)C=CC=C1 | C24H22ClNO2
